US05093341
To N-[4-[[1-(2-phenylethyl)-4-piperidinyl]carbonyl]phenyl]acetamide (40.0 g, 114 mmol) in methanol (900 ml) was added potassium borohydride (16 g, 300 mmol), in small portions, over a 6 hour period. Water (200 ml) was added and the solution was stirred for 20 hours. The solution was concentrated and partitioned between water and dichloromethane. The layers were separated, the organic layer dried (MgSO4), filtered, and concentrated. The resulting material was chromatographed on silica gel, eluting with 10% methanol in chloroform. The appropriate fractions were combined, evaporated, and the resulting solid recrystallized from 2-propranol/water to afford α-(4-aminophenyl)-1-(2-phenylethyl)-4-piperidine methanol as a white solid (7.5 g, 21%): m.p. 129°-130° C.

reactant | N-[4-[[1-(2-phenylethyl)-4-piperidinyl]carbonyl]phenyl]acetamide | 114 mmol, 40.0 g | C1(=CC=CC=C1)CCN1CCC(CC1)C(=O)C1=CC=C(C=C1)NC(C)=O | C22H26N2O2
reactant | potassium borohydride | 300 mmol, 16 g | [BH4-].[K+]
reactant | Water | 200 ml | O | H2O
solvent | methanol | 900 ml | CO | CH4O
product | α-(4-aminophenyl)-1-(2-phenylethyl)-4-piperidine methanol | 7.5 g, 21% | NC1=CC=C(C=C1)C(O)C1CCN(CC1)CCC1=CC=CC=C1 | C20H26N2O
